US08349880B2
Step AC (1): NaHMDS (1.0 M in THF, 100 mL, 100 mmol) was added to a stirred solution of 2-(4-fluorophenyl)acetic acid (7.71 g, 50.0 mmol) in THF (100 mL) at 0° C. The resulting mixture was aged for 20 min at 0° C. and neat 1-chloro-3-iodopropane (5.27 mL, 50.0 mmol) was added. The mixture was allowed to warm to rt. After 16 hr, the reaction was quenched with water (3 mL). The crude mixture was concentrated in vacuo. Aqueous NaOH (1 M, 150 mL) was added to the residue and the resulting mixture was extracted with Et2O (2×100 mL). The basic layer was acidified with aqueous HCl (1 M, 200 mL) and the resulting solution was extracted with Et2O (2×100 mL). The combined organic layers from the acidic extraction were washed with mixture of brine/1N HCl/sodium sulfite, dried (MgSO4), filtered, and concentrated in vacuo. The crude product was purified using silica gel column chromatography (0-10% EtOAc/hexane, linear gradient). The pure fractions were combined and concentrated to afford 5-chloro-2-(4-fluorophenyl)pentanoic acid (7.59 g, 29.6 mmol, 59% yield) as a light brown solid. 1H NMR (500 MHz, chloroform-d) δ ppm 7.30 (dd, J=8.55, 5.19 Hz, 2 H) 7.04 (t, J=8.70 Hz, 2 H) 3.58 (t, J=7.78 Hz, 1 H) 3.53 (t, J=5.80 Hz, 2 H) 2.21 (dddd, J=13.35, 10.45, 7.78, 5.34 Hz, 1 H) 1.90-2.01 (m, 1 H) 1.65-1.84 (m, 2 H).

reactant | NaHMDS | 100 mmol, 1.0 M, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-(4-fluorophenyl)acetic acid | 50.0 mmol, 7.71 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1-chloro-3-iodopropane | 50.0 mmol, 5.27 mL | ClCCCI | C3H6ClI
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-(4-fluorophenyl)pentanoic acid | 29.6 mmol, 7.59 g, 59% yield | ClCCCC(C(=O)O)C1=CC=C(C=C1)F | C11H12ClFO2
